US05498716
A solution of 23 g of ethyl 2-[2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl]-6-methyl-3-oxoheptanoate in 235 cm3 of 98% sulphuric acid is stirred for 20 hours at a temperature of approximately 20° C. and is then poured into 1.5 kg of ice. The precipitate obtained is separated by filtration, washed with water to a pH=6 and dried in air. The solid obtained is taken up in 3.8 liters of distilled water and 480 cm3 of a 0.1N aqueous sodium hydroxide solution. The insoluble product is separated by filtration, the filtrate is acidified to a pH=3 by addition of a 0.1N aqueous hydrochloric acid solution. The precipitate obtained is separated by filtration, washed with distilled water and then with isopropyl ether and dried at 20° C. under reduced pressure (0.07 kPa). 9.2 g of (±)-2-[2-(7-chloro-1,8-naphthyridin-2-yl)-3 -oxo-1-isoindolinyl]-6-methyl-3-oxoheptanoic acid, melting at 176° C., are thus obtained.

reactant | ethyl 2-[2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl]-6-methyl-3-oxoheptanoate | 23 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)C(C(=O)OCC)C(CCC(C)C)=O | C26H26ClN3O4
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | sulphuric acid | 235 cm3 | S(O)(O)(=O)=O | H2O4S
solvent | water | 3.8 liters | O | H2O
product | (±)-2-[2-(7-chloro-1,8-naphthyridin-2-yl)-3 -oxo-1-isoindolinyl]-6-methyl-3-oxoheptanoic acid | 9.2 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)C(C(=O)O)C(CCC(C)C)=O | C24H22ClN3O4
